US09388161B2
A 50-mL round-bottom flask was purged and maintained with an inert atmosphere of nitrogen and charged with 1-[(2S)-6-bromo-5-hydroxy-2-methyl-1,2,3,4-tetrahydroquinolin-1-yl]ethan-1-one (350 mg, 1.23 mmol), N,N-dimethylformamide (10 mL), 1,2-difluoro-4-nitrobenzene (415 mg, 2.61 mmol) and cesium carbonate (1.3 g, 3.99 mmol). The resulting mixture stirred for 3 h at 110° C. After cooling to room temperature, the reaction mixture was poured into dichloromethane (50 mL), washed with water (10 mL) and brine (10 mL), dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with 5:1, ethyl acetate/petroleum ether) to afford 1-[(2S)-6-bromo-5-(2-fluoro-4-nitrophenoxy)-2-methyl-1,2,3,4-tetrahydroquinolin-1-yl]ethan-1-one (450 mg, 86%) of as yellow oil. MS (ESI, neg. ion) m/z 421, 423[M−H].

reactant | 1-[(2S)-6-bromo-5-hydroxy-2-methyl-1,2,3,4-tetrahydroquinolin-1-yl]ethan-1-one | 1.23 mmol, 350 mg | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)O | C12H14BrNO2
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | 1,2-difluoro-4-nitrobenzene | 2.61 mmol, 415 mg | FC1=C(C=C(C=C1)[N+](=O)[O-])F | C6H3F2NO2
reactant | cesium carbonate | 3.99 mmol, 1.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-[(2S)-6-bromo-5-(2-fluoro-4-nitrophenoxy)-2-methyl-1,2,3,4-tetrahydroquinolin-1-yl]ethan-1-one | 450 mg, 86% | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C18H16BrFN2O4
